US06495305B1
e. Chloroethylmethacrylate (CEMA)
A solution was prepared by dissolving 25 g of 2-chloroethanol (310 mmol) and 37.7 g of triethylamine (372.6 mmol) in 70 g of diethylether. Next, 33.72 g of chioroacrylate (272.6 mmol) dissolved in 70 g of diethylether was added drop wise to the solution at ambient temperatures with agitation being carried out for four hours. During the reaction, the reaction flask was cooled with water. The resulting solution was then washed with 300 g of water, 300 g of KHCO3 (aq), and 300 g of NaCl (aq). The organic phase was dried with Na2SO4, and the diethylether was removed by distillation. The yield of the chloroethylacrylate was 91%.

reactant | 2-chloroethanol | 310 mmol, 25 g | ClCCO | C2H5ClO
reactant | triethylamine | 372.6 mmol, 37.7 g | C(C)N(CC)CC | C6H15N
reactant | chioroacrylate | 272.6 mmol, 33.72 g | ClC(C(=O)[O-])=C
reactant | water | O | H2O
solvent | diethylether | 70 g | C(C)OCC | C4H10O
solvent | diethylether | 70 g | C(C)OCC | C4H10O
product | Chloroethylmethacrylate | ClCCOC(C(=C)C)=O | C6H9ClO2
